US05266700
3,3'-Dihydroxybipyridyl
4.06 g (17.2 mmol) of NiCl2 ×6H2O are completely dissolved in 75 ml of technical grade DMF under a continuous argon gas stream (green color) 17.92 g (68.96 mmol) of triphenylphosphine are then added. This leads to a dark blue color of the reaction solution due to the complexation with nickel. This solution is heated to 50° C., and, after reaching this temperature, 3.10 g (47.7 mmol) of zinc powder are added. This changes the color of the reaction solution from dark blue via turquoise to red-brown. The red-brown color is characteristic of the formation of an Ni(O) complex. This solution is stirred at 50° C. under argon as the inert gas for a total of 1 hour. 3.00 g (17.2 mmol) of 2-bromo-3-hydroxypyridine are added to this solution in solid form. After a reaction time of 30 minutes, a red-brown precipitate is formed. The further course of the reaction is monitored by thin-layer chromatography (silica gel/petroleum ether (low-boiling):ether=9:1 ). After as little as 45 minutes, hardly any educt is left. The reaction is stopped after 2 hours. The reaction solution is poured into 200 ml of water, resulting in the formation of a voluminous precipitate. 8.0 g of sodium cyanide are then added to the aqueous phase, and the entire mixture is stirred for 10 minutes. This solution is then filtered, resulting in a yellow clear solution. A colorless precipitate remains in the filter, which is suspended in 100 ml of concentrated ammonia and added to the yellow aqueous phase by filtration. The ammoniacal aqueous phase thus obtained is brought to a pH of 8 with concentrated hydrochloric acid, giving a voluminous, yellow solid (green solid-state fluorescence), which is dried over sodium sulfate and concentrated on a rotary evaporator. During evaporation, long yellow slightly sticky needles are obtained (yield of the crude product 0.5 g, melting point 135°-175°). The crude product obtained is recrystallized from 30 ml of toluene, giving the desired product in the form of long, yellow needles.

reactant | triphenylphosphine | 68.96 mmol, 17.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo-3-hydroxypyridine | 17.2 mmol, 3.00 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | sodium cyanide | 8.0 g | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ammonia | 100 ml | N | H3N
catalyst | NiCl2 | 17.2 mmol, 4.06 g | Cl[Ni]Cl
catalyst | nickel | [Ni] | Ni
catalyst | zinc | 47.7 mmol, 3.10 g | [Zn] | Zn
solvent | water | 200 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3,3'-Dihydroxybipyridyl | OC=1C(=NC=CC1)C1=NC=CC=C1O | C10H8N2O2
